US07713993B2
Synthesis of tert-butyl N′-[5-chloro-2-(4-fluorophenyl)-2-methoxypentanoyl]hydrazinecarboxylate
Oxalyl chloride (44 μL) was added a mixed solution of 5-chloro-2-(4-fluorophenyl)-2-methoxyvaleric acid (108 mg) in methylene chloride (1 mL) and DMF (1 drop) under ice-cooling, and then the reaction solution was stirred at room temperature for 30 minutes. The acid chloride solution was added dropwise to a solution of tert-butyl carbazate (82 mg) and TEA (0.3 mL) in methylene chloride (2 mL) under ice-cooling, and the reaction solution was stirred at the same temperature for 10 minutes and at room temperature for 30 minutes. Water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was sequentially washed with 1 N hydrochloric acid, water, a saturated sodium bicarbonate solution and brine. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 90 mg of the title compound. The property values of the compound are as follows.

reactant | Oxalyl chloride | 44 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-chloro-2-(4-fluorophenyl)-2-methoxyvaleric acid | 108 mg | ClCCCC(C(=O)O)(OC)C1=CC=C(C=C1)F | C12H14ClFO3
reactant | tert-butyl carbazate | 82 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | Water | O | H2O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N′-[5-chloro-2-(4-fluorophenyl)-2-methoxypentanoyl]hydrazinecarboxylate | 90 mg | ClCCCC(C(=O)NNC(=O)OC(C)(C)C)(OC)C1=CC=C(C=C1)F | C17H24ClFN2O4
